### PR TITLE
[Merged by Bors] - feat(PowerSeries): `substInv` add add a variant assuming `IsUnit`

### PR DESCRIPTION
**Pull request by WenrongZou**
In this PR, I add a variant assuming `IsUnit` in `substInv`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 1]
```diff
@@ -498,8 +500,7 @@ lemma coeff_subst_sum_C_substInvFun_mul_X_pow_sub_X (n : ℕ) :
     · simp [HasSubst, ← PowerSeries.constantCoeff.eq_def, hB']
 
 include hP in
-lemma subst_substInv_right :
-    P.subst (substInv P) = X := by
+lemma subst_substInv_right : P.subst (substInv P) = X := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]: This seems like an unrelated change, could you please revert it?

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 2]
```diff
@@ -520,39 +521,66 @@ lemma subst_substInv_right :
 lemma constantCoeff_substInv : P.substInv.constantCoeff = 0 := by
   simp [substInv, substInvFun]
 
-lemma hasSubst_substInv : HasSubst P.substInv := by simp [HasSubst, ← constantCoeff.eq_def]
+lemma HasSubst.substInv : HasSubst P.substInv := by simp [HasSubst, ← constantCoeff.eq_def]
```
Comment (chrisflav) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:527]: Could you please add a deprecation?

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 3]
```diff
@@ -520,39 +521,66 @@ lemma subst_substInv_right :
...
+end Invertible
+
+section IsUnit
+
+variable (P : R⟦X⟧) (hP : P.constantCoeff = 0) (hP' : IsUnit (P.coeff 1))
+
+/-- Given a power series `P = u • X + O(X²)` with `u` is an unit in ring `R`,
+this is the power series `Q` such that `P(Q(X)) = X`. See `PowerSeries.subst_substInv'`. -/
+noncomputable
+def substInv' : PowerSeries R :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]: How about naming this something like:
```suggestion
noncomputable
def substInvOfIsUnit : PowerSeries R :=
```
We try to avoid naming things with `'` if possible.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 4]
```diff
@@ -520,39 +521,66 @@ lemma subst_substInv_right :
...
+      simp [subst_comp_subst_apply (HasSubst.substInv P) hQ, eq_aux]
+
+end Invertible
+
+section IsUnit
+
+variable (P : R⟦X⟧) (hP : P.constantCoeff = 0) (hP' : IsUnit (P.coeff 1))
+
+/-- Given a power series `P = u • X + O(X²)` with `u` is an unit in ring `R`,
+this is the power series `Q` such that `P(Q(X)) = X`. See `PowerSeries.subst_substInv'`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]: Could you please mention `PowerSeries.substInv` here and conversely this variant in the docstsring of `PowerSeries.substInv`?

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 5]
```diff
@@ -520,39 +521,66 @@ lemma subst_substInv_right :
...
+noncomputable
+def substInv' : PowerSeries R :=
+  letI := hP'.invertible
+  .mk (substInvFun P)
```
Comment (chrisflav) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]:
```suggestion
  letI := hP'.invertible
  P.substInv
```

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 6]
```diff
@@ -520,39 +521,66 @@ lemma subst_substInv_right :
...
+@[simp]
+lemma coeff_one_substInv' : (P.substInv' hP').coeff 1 = hP'.unit⁻¹ := by
+  letI := hP'.invertible
+  rw [substInv'_eq_substInv, coeff_one_substInv]
+  exact Units.mul_eq_one_iff_eq_inv.mp Invertible.invOf_mul_self
+
+include hP in
+lemma subst_substInv'_right : P.subst (substInv' P hP') = X :=
+  letI := hP'.invertible
+  (P.substInv'_eq_substInv hP') ▸ (P.subst_substInv_right hP)
```
Comment (chrisflav) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]: Could you please turn this into a tactic `rw` proof instead? `▸` tends to be brittle and the `rw` proof is not longer here.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean (hunk 2 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/PowerSeries/Substitution.lean:527]: Thanks! I forgot to do it.

**Comment by WenrongZou** [comment]
Thanks! 
-awaiting-author

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
